US07384963B2
2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carbonyl chloride Oxalyl chloride (0.073 ml, 0.82 mmol) was added to a suspension of 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid (200 mg, 0.68 mmol), and DMF (2 drops) in DCM (10 ml) at 0° C. The reaction was stirred at room temperature for 1.5 h and the solvents evaporated under vacuum to give 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carbonyl chloride as a white solid (0.212 g, 100%). NMR; δH [2H6]—DMSO 8.03,(2H, d), 7.90,(1H, dd), 7.76,(1H, d), 7.56-7.53,(3H, m), 2.56,(3H, s), 2.30,(3H, s).

reactant | 2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carbonyl chloride Oxalyl chloride | 0.82 mmol, 0.073 ml | C(C(=O)Cl)(=O)Cl.CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)Cl
reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | 0.68 mmol, 200 mg | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carbonyl chloride | 0.212 g, 100% | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)Cl | C17H13ClN2O2
